US06080743
N-(2,3-Dioxo-7-nitro-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-N-(2-pyridylmethyl)-glycine dihydrobromide
49 mg (0.1 mmol) of N-(2,3-dimethoxy-7-nitro-quinoxalin-5-ylmethyl)-N-(2-pyridylmethyl)-glycine dihydrochloride are stirred in 2 ml of a 48% solution of hydrogen bromide in acetic acid for 18 hours at 70° C. The mixture is diluted with diethyl ether and the solid is filtered off, washed with diethyl ether and dried. The title compound is obtained in the form of a yellow solid.

reactant | N-(2,3-dimethoxy-7-nitro-quinoxalin-5-ylmethyl)-N-(2-pyridylmethyl)-glycine dihydrochloride | 0.1 mmol, 49 mg | Cl.Cl.COC1=NC2=CC(=CC(=C2N=C1OC)CN(CC(=O)O)CC1=NC=CC=C1)[N+](=O)[O-]
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-(2,3-Dioxo-7-nitro-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-N-(2-pyridylmethyl)-glycine dihydrobromide | Br.Br.O=C1NC2=CC(=CC(=C2NC1=O)CN(CC(=O)O)CC1=NC=CC=C1)[N+](=O)[O-] | InChI=1S/C17H15N5O6.2BrH/c23-14(24)9-21(8-11-3-1-2-4-18-11)7-10-5-12(22(27)28)6-13-15(10)20-17(26)16(25)19-13;;/h1-6H,7-9H2,(H,19,25)(H,20,26)(H,23,24);2*1H
